US07220760B2
Cis-4-(acetyl-benzylamino)-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic Acid Benzyl Ester (Compound of Formula Cis-(1f)
To a solution of Cis-2-Methyl-4-benzylamino-3,4-dihydro-2H-quinoline-1-carboxylic acid benzyl ester (300 mg, 0.776 mmol), diisopropyl ethyl amine (0.135 mL, 0.776 mmol) in dioxane (1.5 mL), was added anhydride acetic (0.732 mL, 7.76 mmol) with stirring. The mixture was heated under reflux over night, cooled and directly chromatographed on silica gel utilizing 50% ethyl acetate/hexane to provide the title compound (300 mg) as an oil. 1H NMR [CDCl3]: δ 7.6–6.9 (m, 14H), 5.5 (d, 1H), 5.3 (d, 1H), 5.2 (t, 1H), 4.8 (m, 1H), 4.4 (m, 2H), 3.8 (d, 1H), 2.4 (s, 3H), 1.5 (m, 1H), 1.2 (m, 3H).

reactant | Cis-2-Methyl-4-benzylamino-3,4-dihydro-2H-quinoline-1-carboxylic acid benzyl ester | 0.776 mmol, 300 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C[C@H](C2=CC=CC=C12)NCC1=CC=CC=C1)C | C25H26N2O2
reactant | diisopropyl ethyl amine | 0.776 mmol, 0.135 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | Cis-4-(acetyl-benzylamino)-2-methyl-3,4-dihydro-2H-quinoline-1-carboxylic Acid Benzyl Ester | 300 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(CC1=CC=CC=C1)C(C)=O)C | C27H28N2O3
